US07829206B2
Into 200 ml of dehydrated THF, tetrahydrofuran, 20 g of 7-bromobenzanthracene obtained above was dissolved, and the obtained solution was cooled at −62° C. To the cooled solution, 50 ml of a 1.6 M hexane solution of normal-butyllithium was added dropwise, and the resultant mixture was stirred for 30 minutes. The temperature was raised to −5° C. and then lowered to −64° C. To the cooled fluid, a THF solution of 22.4 g of trimethyl borate was added dropwise. After one night, the reaction fluid was adjusted at the acidic condition with a dilute hydrochloric acid, treated by extraction with toluene and washed with water and a saturated aqueous solution of sodium chloride, and the organic layer was dried with anhydrous sodium sulfate. After the solvent was removed by distillation, the obtained residue was crystallized from toluene/hexane, and 14 g of 7-benzanthraceneboronic acid was obtained as cream crystals (the yield: 79%).

reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | normal-butyllithium | C(CCC)[Li]
reactant | trimethyl borate | 22.4 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-benzanthraceneboronic acid | 14 g, yield: 79% | C1=CC=CC=2C=CC3=C(C=4C=CC=CC4C=C3C21)B(O)O | C18H13BO2
